US07109219B2
5-(2-(3-((1R)-1-Carbamoyl-2-phenylethyl)ureido)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (104 mg, 0.200 mmol) and triethylamine (1 ml) were dissolved in N,N-dimethylformamide (3 ml), and (2R)-2-amino-3-phenylpropionamide hydrochloride (201 mg, 1.00 mmol) was added, and the reaction mixture was stirred for 18 hours. The reaction mixture was partitioned between ethyl acetate and the saturated aqueous solution of ammonium chloride. The organic layer was washed with water and brine, and was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:methanol=50:1). The crystals were precipitated from a solvent mixture of ethyl acetate-hexane, filtered off, and dried under aeration to yield the title compound (77.2 mg, 0.152 mmol, 76%) as white crystals.

reactant | Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 0.200 mmol, 104 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C29H22N4O6
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | (2R)-2-amino-3-phenylpropionamide hydrochloride | 1.00 mmol, 201 mg | Cl.N[C@@H](C(=O)N)CC1=CC=CC=C1
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(2-(3-((1R)-1-Carbamoyl-2-phenylethyl)ureido)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | 0.152 mmol, 77.2 mg, 76% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N[C@H](CC1=CC=CC=C1)C(N)=O | C25H24N6O4
